US05998462
4-Isopropyl-N-(2,2-diethoxyethyl)aniline
4-Sec-butyl-N-(2,2-diethoxyethyl)aniline; from 4-sec-butylaniline (56%).

reactant | 4-Sec-butyl-N-(2,2-diethoxyethyl)aniline | C(C)(CC)C1=CC=C(NCC(OCC)OCC)C=C1 | C16H27NO2
reactant | 4-sec-butylaniline | C(C)(CC)C1=CC=C(N)C=C1 | C10H15N
product | 4-Isopropyl-N-(2,2-diethoxyethyl)aniline | C(C)(C)C1=CC=C(NCC(OCC)OCC)C=C1 | C15H25NO2
